US04716238
Preparation of 7-ethoxy-2,2,8-trimethyl-2H-chromene
To a solution of 5.7 g (25 millimoles) of titanium tetraethoxide in 50 ml of toluene a solution of 13.8 g (100 millimoles) of 2-methyl-3-ethoxy-phenol and 50 ml of toluene is added at 20° C. under nitrogen. The orangered solution is heated to boiling for an hour, and subjected to slow distillation until the ethanol is removed. The mixture is cooled to room temperature and a mixture of 10.6 g (150 millimoles) of dimethyl acroleine and 200 ml of toluene is added dropwise. The reaction mixture is heated to boiling for 8 hours, diluted with a saturated ammonium chloride solution and extracted with ether. The solvent is removed and the residue purified as described in Example 3. This 10.2 g of the desired compound are obtained in the form of a colorless oil, yield 50%.

reactant | 2-methyl-3-ethoxy-phenol | 100 millimoles, 13.8 g | CC1=C(C=CC=C1OCC)O | C9H12O2
reactant | dimethyl acroleine | 150 millimoles, 10.6 g | CC(=CC=O)C | C5H8O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | titanium tetraethoxide | 25 millimoles, 5.7 g | [O-]CC.[O-]CC.[O-]CC.[O-]CC.[Ti+4]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 7-ethoxy-2,2,8-trimethyl-2H-chromene | 10.2 g, yield 50% | C(C)OC1=CC=C2C=CC(OC2=C1C)(C)C | C14H18O2
